US07994176B2
Trifluoro-methanesulfonic acid 3,5-dichloro-4-(3-cyclohexyl-2-oxo-pyrrolidin-1-ylmethyl)-phenyl ester
Treat a 0° C. solution of 3-cyclohexyl-1-(2,6-dichloro-4-hydroxy-benzyl)-pyrrolidin-2-one (1.20 g, 3.52 mmol) and pyridine (2.4 g, 30 mmol) in CH2Cl2 (25 mL) with trifluoromethanesulfonic anhydride (2.98 g, 10.56 mmol) for 1 hour. Dilute the reaction with CH2Cl2 and wash with 1N HCl and water. Dry the organic layer (Na2SO4) and remove the solvent. Purify the residue via silica gel chromatography to afford 0.82 g (49%) of the titled product. MS (m/z): 474 (M+).

reactant | 3-cyclohexyl-1-(2,6-dichloro-4-hydroxy-benzyl)-pyrrolidin-2-one | 3.52 mmol, 1.20 g | C1(CCCCC1)C1C(N(CC1)CC1=C(C=C(C=C1Cl)O)Cl)=O | C17H21Cl2NO2
reactant | pyridine | 30 mmol, 2.4 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 10.56 mmol, 2.98 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 3,5-dichloro-4-(3-cyclohexyl-2-oxo-pyrrolidin-1-ylmethyl)-phenyl ester | 0.82 g, 49% | ClC=1C=C(C=C(C1CN1C(C(CC1)C1CCCCC1)=O)Cl)OS(=O)(=O)C(F)(F)F | C18H20Cl2F3NO4S
